Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / Cipro / Percocet / Vicodin / Nexium / doxycycline
 
Attending: ___
 
Chief Complaint:
nausea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with hx of lung CA (dx
___, s/p chemo/partial R lobectomy with R lung metastasis s/p
XRT ___, oropharyngeal dysphagia secondary to pharyngeal
paresis now s/p G-tube, malnutrition, presenting with nausea x 3
days and failure to thrive.

Ms. ___ has a hx of lung cancer, diagnosed in ___. She
underwent chemo and partial R lobectomy in ___ but had
recurrence in ___, for which XRT was performed. She 
subsequently
developed oropharyngeal dysphagia with pharyngeal paresis,
unresponsive to therapy. She gradually lost weight. Finally, 
give
unlikelihood of improvement in swallowing, a PEG was placed
___ and TFs initiated. She was initially able to continue
with pureed foods, but over the last few months her dysphagia
worsened to the point where she now tolerates only soup twice a
day. She experiences frequent nausea without emesis, as well as
early post-prandial satiety and regurgitation/pooling of
secretions. She has continued to lose weight (125 lbs approx ___
year ago to 94.5 lbs today). She was admitted ___, during
which her PEG placement was confirmed. EGD showed a normal
esophagus and a few superficial ulcers of the duodenal bulb.
Biopsy of the pylorus was negative. Her TF regimen was adjusted,
with the goal of 12h overnight feeding with a goal rate of
80cc/hr (for total of 960 cc/day). Weight at discharge 95 lbs.

Ms. ___ subsequently saw Dr. ___ in clinic on ___, at
which time A1c, TSH, vit D, CRP/ESR, SPEP, tTG-IgA, and H.pylori
serology were all negative. Gastroparesis was considered, but
gastric emptying study was deferred given BMI of 16 and 
inability
to treat if positive at this weight. Plan was to obtain 
Cologuard
(colonoscopy deferred for now given BMI), abdominal U/S and
consider repeat CT A/P (not yet done). 

Ms. ___ continues to have nausea and regurgitation/reflux
without emesis, worse over the last 3 days and particularly at
night, as well as early satiety. As a result, she has been 
unable
to increase her TFs to goal (currently at 75cc/hr from 6p-6a).
Dr. ___ attempted ___ 2 days ago, but the
patient could not administer the medication through the PEG and
reverted to ranitidine. She has previously trialed Nexium, which
resulted in severe heartburn. Zofran has provided no relief. Dr.
___ suggested she present for failure to thrive. 

ED
VS: AF, BP 127/60, HR 78, RR 20, 100% RA
Exam: PEG site c/d/I, abd soft, NT, RRR, CTAB
Labs: CBC WNL, BMP WNL, 
Imaging: CXR with postsurgical changes R hemithorax with R 
apical
opacity possibly scarring. No e/o PNA.
Interventions: ketorolac 15mg IV x 1

On arrival to the floor, Ms. ___ reports that her nausea is
somewhat improved. She endorses chronic headaches, unchanged 
from
prior, for which she takes Fioricet. She denies F/C, CP, SOB,
abdominal pain, diarrhea/constipation, melena/hematochezia,
dysuria/hematuria, arthralgias, new rashes. She has q6 month
surveillance chest CT scans for her hx of lung CA, last ___
and reportedly negative. Last colonoscopy ___, reportedly WNL.
Last mammogram reportedly ___ year ago, also reportedly normal. 
She
is frustrated by her lack of improvement since PEG placement.
 
Past Medical History:
Lung CA (unclear type) s/p radiation and thoracic surgery
(unknown operation) in ___ c/b need for gtube placement
HTN
HLD
GERD
Tension HA
Allergic rhinitis

 
Social History:
___
Family History:
No known prior history of GI motility issues
 
Physical Exam:
ADMISSION EXAM(8)
VITALS: AF, BP 163/76, HR 87, RR 16, 94% RA
GENERAL: NAD, cachetic
EYES: PERRL, anicteric sclerae
ENT: OP clear
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: PEG in place, c/d, + BS, soft, NT, ND, no rebound/guarding,
no HSM
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
sensation grossly intact throughout, gait testing deferred
PSYCH: pleasant, appropriate affect

Discharge exam
VITALS: vitals stable
GENERAL: NAD, thin/cachetic
EYES: MMM, anicteric sclerae
ENT: NCAT
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: PEG in place, c/d/i, + BS, soft, NT, ND, no 
rebound/guarding,
no HSM
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
NEURO: AOx3, nonfocal, moves all four extremities
PSYCH: appropriate mood and affect

 
Pertinent Results:
___ 07:45AM BLOOD Glucose-137* UreaN-23* Creat-0.4 Na-137 
K-4.5 Cl-96 HCO3-32 AnGap-9*
___ 08:00AM BLOOD WBC-5.9 RBC-4.21 Hgb-12.6 Hct-39.4 MCV-94 
MCH-29.9 MCHC-32.0 RDW-14.3 RDWSD-48.6* Plt ___
___ 08:00AM BLOOD ALT-15 AST-21 AlkPhos-62 TotBili-0.5

___ 08:00AM BLOOD WBC-5.9 RBC-4.21 Hgb-12.6 Hct-39.4 MCV-94 
MCH-29.9 MCHC-32.0 RDW-14.3 RDWSD-48.6* Plt ___
___ 07:45AM BLOOD Glucose-112* UreaN-22* Creat-0.4 Na-141 
K-4.5 Cl-98 HCO3-28 AnGap-15
___ 07:50AM BLOOD ALDOSTERONE-PND
___ 07:50AM BLOOD RENIN - FROZEN-PND
___ 07:50AM BLOOD Metanephrines (Plasma)-PND
 
Brief Hospital Course:
___ female with hx of lung CA (dx ___, s/p 
chemo/partial R lobectomy with R lung metastasis s/p XRT ___, 
oropharyngeal dysphagia secondary to pharyngeal paresis now s/p 
G-tube, malnutrition, presenting with nausea x 3 days and 
failure to thrive.

ACUTE/ACTIVE PROBLEMS:
#Nausea:
#Inability to tolerate feeding:
#Moderate protein calorie malnutrition on tube feeds:
#Failure to thrive:
Patient presents with nausea and reflux, worse at night in the 
setting of increasing her TF rate. Unclear why she is not 
tolerating TFs well; ddx includes gastroparesis/delayed 
intestinal transit (although no diabetes or thyroid dysfunction) 
vs duodenal ulcers (seen on recent EGD). Her poor tolerance of
TFs may explain her persistent malnutrition and failure to 
thrive, but other considerations include malignancy (known lung 
CA reportedly in remission, recent mammography negative, overdue 
for colonoscopy but negative in ___ vs less likely autoimmune 
etiologies. Low suspicion for active infection. HIV, SPEP,
ESR/CRP negative. Less likely malabsorption in absence of 
diarrhea (celiac testing negative). TF position confirmed on 
recent admission, EGD largely unremarkable with exception of few 
shallow ulcers. 
- RUQ U/S, CT A/P with contrast without acute findings (just 
incidental adrenaloma, which will need outpatient workup).
- GI was consulted and recommended not forcing liquid 
supplements and PO intake as she can get adequate nutrition via 
PEG tube. Pt reports being tried on multiple PPIs and she either 
cannot tolerate them due to side effects, cannot fit them 
through the tube, or is not covered by insurance. Patient was 
continued on home H2 blocker per tube. Initially considered 
gastric emptying study but held off as both GI and Dr. ___ 
___ that even if she had gastroparesis, no good treatment 
options.
- stool guaiac x 3 given that she is overdue for colonoscopy
- ENT was consulted for evaluation of dysphagia, saw the patient 
and recommended keeping her outpatient appointment coming up on 
___. 
- Speech and swallow consulted who recommended outpatient clinic 
follow up for second opinion, as patient likely cannot tolerate 
oral contrast needed for modified barium swallow.
- would limit PO intake to sips as significant intake by mouth 
makes her nausea significantly worse

# Adrenal incidentaloma: patient requests us starting workup for 
incidental lesion seen on adrenal gland on CT as she lives far 
away and does not want to come back to ___ for workup. 
However, when I recommended adrenal protocol CT, she refused, 
saying that she had enough radiation for the time being, and 
wants to pursue that as an outpatient. However, she requested 
that we check labs. no symptoms/signs of hormone production, but 
sent out for renin, aldosterone, metanephrine for screening 
given hx of HTN-currently pending
- consider outpatient dexamethasone suppression test if felt to 
be necessary, but no clinical signs of ___

CHRONIC PROBLEMS:
# HTN: home Toprol continued

# Allergic rhinitis: continued home Flonase

# CAD:
# Hx TIA: continued home ASA 81mg daily

# HA: continued home fioricet

# HLD: continued home simvastatin

FOLLOW UP
- Need to complete adrenal incidentaloma workup as an outpatient
- Patient to follow up with outpatient ENT, speech and swallow 
for second opinion
-Patient needs to have plasma renin,aldosterone and metanephrine 
studies followed that are pending
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 100 mcg PO DAILY 
2. Multivitamins W/minerals Liquid 15 mL PO DAILY 
3. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
4. Thiamine 100 mg PO DAILY 
5. Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN Pain - Mild 
6. Fluticasone Propionate NASAL 1 SPRY NU BID 
7. Metoprolol Succinate XL 12.5 mg PO QHS 
8. Ranitidine (Liquid) 150 mg PO BID 
9. Simvastatin 40 mg PO QPM 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Tartrate 12.5 mg PO QHS  
2.  Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN Pain - Mild 

Do not exceed 6 tablets/day  
3.  Aspirin 81 mg PO DAILY  
4.  Cyanocobalamin 100 mcg PO DAILY  
5.  Fluticasone Propionate NASAL 1 SPRY NU BID  
6.  Multivitamins W/minerals Liquid 15 mL PO DAILY  
7.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
8.  Ranitidine (Liquid) 150 mg PO BID  
9.  Simvastatin 40 mg PO QPM  
10.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Nausea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were treated for nausea, inability to tolerate significant 
oral intake and difficulty with high tube feed rates. Labs, CT, 
ultrasound were unremarkable. Your tube feed regimen was 
adjusted. You should follow up with your primary care physician 
about the incidental adrenal nodule that was found in your CT 
scan.
 
Followup Instructions:
___